US04237275
The procedure as in Example 1(a) is carried out except that 54.07 g (0.5 mol) of 3-aminomethylpyridine, 40 g (0.55 mol) of isobutyraldehyde and 75 ml of toluene are used. Distillation yields 80.1 g (0.495 mol) of isobutylidene-3-aminomethylpyridine; yield 98.8% of theory; b.p 106°-108° C./1.8×103Pa; nD20 =1.5103.

reactant | 3-aminomethylpyridine | 0.5 mol, 54.07 g | NCC=1C=NC=CC1 | C6H8N2
reactant | isobutyraldehyde | 0.55 mol, 40 g | C(C(C)C)=O | C4H8O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | isobutylidene-3-aminomethylpyridine | 0.495 mol, 80.1 g, yield 98.8% | C(C(C)C)=C1NC=CC=C1CN | C10H16N2
